US08877815B2
A mixture of benzyl 2-(1-(tert-butoxycarbonylamino)cyclopentyl)acetate (82 mg, 0.246 mmol) and HCl in 1,4-dioxane (1230 μl, 4.92 mmol) was allowed to stir for 1 hour. The reaction mixture was concentrated to give 2-(1-aminocyclopentyl)acetate hydrochloride (66 mg); 1H NMR (400 MHz, CDCl3) δ ppm 1.65-1.68 (m, 4H) 1.98-2.08 (m, 2H) 2.19-2.26 (m, 2H) 2.94 (s, 2H) 5.17 (s, 2H) 7.31-7.39 (m, 5H) 8.65 (br s, 3H).

reactant | benzyl 2-(1-(tert-butoxycarbonylamino)cyclopentyl)acetate | 0.246 mmol, 82 mg | C(C)(C)(C)OC(=O)NC1(CCCC1)CC(=O)OCC1=CC=CC=C1 | C19H27NO4
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 4.92 mmol, 1230 μl | O1CCOCC1 | C4H8O2
product | 2-(1-aminocyclopentyl)acetate hydrochloride | 66 mg | Cl.NC1(CCCC1)CC(=O)O | InChI=1S/C7H13NO2.ClH/c8-7(5-6(9)10)3-1-2-4-7;/h1-5,8H2,(H,9,10);1H
